US06719520B2
3-Amino-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione
3-chloro-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione (1.0 g, 4 mmol) was suspended in a mixture of ethanol (20 mL) and aqueous 880 ammonia (5 mL) and the mixture heated to 80° C. whilst ammonia gas was bubbled through the mixture for 4 hours. The mixture was cooled and concentrated and the residue chromatographed on silica get using hexane-ethyl acetate (gradient from 1:1 v/v) as eluent to afford the title compound as a solid.

reactant | 3-chloro-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | 4 mmol, 1.0 g | ClC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C10H5ClN2O4
reactant | ammonia | 5 mL | N | H3N
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 3-Amino-4-(3-nitrophenyl)-1H-pyrrole-2,5-dione | NC=1C(NC(C1C1=CC(=CC=C1)[N+](=O)[O-])=O)=O | C10H7N3O4
